US07902109B2
Palladium chloride (3.00 g; manufactured by Wako Pure Chemical Industry), 2.10 g of lithium chloride (manufactured by Wako Pure Chemical Industry) and 40 mL of methanol were charged in a flask made of glass where the inner air was substituted with highly pure argon and were stirred for 4 hours. Norbornadiene (2.1 g; manufactured by Aldrich) was added to the resulting homogeneous solution and the mixture was stirred for 12 hours. The resulting yellow solid was sucked to give 3.6 g of norbornadiene dichloropalladium.

reactant | Palladium chloride | 3.00 g | [Pd](Cl)Cl
reactant | lithium chloride | 2.10 g | [Cl-].[Li+]
reactant | Norbornadiene | 2.1 g | C12=CC=C(CC1)C2 | C7H8
solvent | methanol | 40 mL | CO | CH4O
product | norbornadiene dichloropalladium | 3.6 g | Cl[Pd]Cl.C12=CC=C(CC1)C2 | InChI=1S/C7H8.2ClH.Pd/c1-2-7-4-3-6(1)5-7;;;/h1-2H,3-5H2;2*1H;/q;;;+2/p-2
